US05506219
A solution of (S,E)-3-[[(1,1-Dimethylethyl)diphenylsilyl]-4-[[2-[2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]ethenyl]methoxyphosphinyl]butanoic acid, methyl ester (542 mg, 0.749 mmol) in THF (10 ml) was treated with HOAc (215 ul, 226 mg, 3.76 mmol) and tetra-n-butylammonium fluoride (1.0M in THF, 2.25 ml, 2.25 mmol). After stirring at room temperature for 22 hours, the solution was poured into saturated NaHCO3 and extracted with EtOAc. The EtOAc extract was washed with brine, dried (Na2SO4), filtered and stripped to give an oil which was subsequently chromatographed (flash, Merck, SiO2, 1:1 acetone:hexane followed by 20% hexane in acetone). (S,E)-4-[[2-[2-(4-Fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]-ethenyl]methoxyphosphinyl]-3-hydroxybutanoic acid, methyl ester (265 mg, 73%) was obtained as a white foam.

reactant | [(1,1-Dimethylethyl)diphenylsilyl]-4-[[2-[2-(4-fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]ethenyl]methoxyphosphinyl]butanoic acid, methyl ester | 0.749 mmol, 542 mg | CC(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C(=O)OC)CCP(=O)(OC)C=CC=1C(=NC2=CC=CC=C2C1C(C)C)C1=CC=C(C=C1)F | C42H47FNO4PSi
reactant | HOAc | 3.76 mmol, 215 ul, 226 mg | CC(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride | 2.25 mmol, 1.0M, 2.25 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (S,E)-4-[[2-[2-(4-Fluorophenyl)-4-(1-methylethyl)-3-quinolinyl]-ethenyl]methoxyphosphinyl]-3-hydroxybutanoic acid, methyl ester | 265 mg, 73% | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1/C=C/P(=O)(C[C@H](CC(=O)OC)O)OC)C(C)C | C26H29FNO5P
